US09227976B2
Step 2: methyl 2-[5-acetamido-3-(3-pyridyl)pyrazol-1-yl]acetate
Acetic anhydride (431 μL, 4.4 mmol) was added dropwise to a solution of methyl 2-[5-amino-3-(3-pyridyl)pyrazol-1-yl]acetate (510 mg, 2.2 mmol) in pyridine (1.7 mL) at 0° C. under an atmosphere of nitrogen. Upon complete addition, the reaction mixture was warmed to room temperature and stirred for 16 h. The reaction mixture was filtered and the solid was washed with diethyl ether to provide the title compound as a white solid (430 mg).

reactant | Acetic anhydride | 4.4 mmol, 431 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl 2-[5-amino-3-(3-pyridyl)pyrazol-1-yl]acetate | 2.2 mmol, 510 mg | NC1=CC(=NN1CC(=O)OC)C=1C=NC=CC1 | C11H12N4O2
solvent | pyridine | 1.7 mL | N1=CC=CC=C1 | C5H5N
product | methyl 2-[5-acetamido-3-(3-pyridyl)pyrazol-1-yl]acetate | 430 mg | C(C)(=O)NC1=CC(=NN1CC(=O)OC)C=1C=NC=CC1 | C13H14N4O3
